US08710063B2
1-(2-Fluoroethyl)piperazine dihydrochloride
Add 4 N HCl in 1,4-dioxane (21.52 mL, 86.1 mmol) to a stirred solution of 4-(2-fluoro-ethyl)-piperazine-1-carboxylic acid tert-butyl ester (2.00 g, 8.61 mmol) in dry dichloromethane (60 mL) at room temperature under nitrogen. Stir overnight under nitrogen. Concentrate the reaction under reduced pressure to afford the title compound (1.78 g). ES/MS m/z 133 (M+1).

reactant | HCl | 4 N | Cl | ClH
reactant | 1,4-dioxane | 86.1 mmol, 21.52 mL | O1CCOCC1 | C4H8O2
reactant | 4-(2-fluoro-ethyl)-piperazine-1-carboxylic acid tert-butyl ester | 8.61 mmol, 2.00 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CCF | C11H21FN2O2
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | 1-(2-Fluoroethyl)piperazine dihydrochloride | 1.78 g | Cl.Cl.FCCN1CCNCC1 | InChI=1S/C6H13FN2.2ClH/c7-1-4-9-5-2-8-3-6-9;;/h8H,1-6H2;2*1H
